US06740662B1
To an ethanol solution of ethyl 1-[4-(3-chlorophenyl)-1-ethyl-7-formyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]piperidine-4-carboxylate was added sodium borohydride under ice cooling, followed by stirring for 15 minutes. Thereafter, the reaction mixture was worked up and purified in a usual manner to obtain ethyl 1-[4-(3-chlorophenyl)-1-ethyl-7-hydroxymethyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]piperidine-4-carboxylate as a yellow oily substance. MS: 470.

reactant | ethyl 1-[4-(3-chlorophenyl)-1-ethyl-7-formyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]piperidine-4-carboxylate | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C=O)CC)=O)N1CCC(CC1)C(=O)OCC | C25H26ClN3O4
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 1-[4-(3-chlorophenyl)-1-ethyl-7-hydroxymethyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]piperidine-4-carboxylate | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)CO)CC)=O)N1CCC(CC1)C(=O)OCC | C25H28ClN3O4
